US06329392B1
1-(4-Ethyl acetoxy-3,5-dimethoxy-benzoyl)-3-[2-[4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Prepare by the method of Example 6.6.2 using 1-(4-ethyl acetoxy-3,5-dimethoxy-benzoyl)-3-phenyl-3-(2-methanesulfonyl-ethyl)-pyrrolidine and 4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidine to give the title compound.

reactant | 1-(4-ethyl acetoxy-3,5-dimethoxy-benzoyl)-3-phenyl-3-(2-methanesulfonyl-ethyl)-pyrrolidine | C(C)C1=C(C(=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC=CC=C2)C=C1OC)OC(C)=O)OC | C26H33NO7S
reactant | 4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidine | C(C)OCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C17H23N3O2
product | 1-(4-Ethyl acetoxy-3,5-dimethoxy-benzoyl)-3-[2-[4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | C(C)C1=C(C(=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CCOCC)C=CC=C3)C=C1OC)OC(C)=O)OC | C42H52N4O7
